US07217724B2
tert-Butyl [2-(7-methoxy-1H-indazol-3-yl)ethyl]carbamate
Under nitrogen atmosphere, to a solution of 3-(7-methoxy-1H-indazol-3-yl)propanoic acid (86.4 mg, 0.392 mmol) in toluene (5 mL)-tert-butanol (2.5 mL) are added triethylamine (80.0 μL, 0.574 mmol) and diphenylphosphoryl azide (110 μL, 0.510 mmol), and the mixture is stirred at room temperature for 2 hours. The mixture is stirred at 60° C. for 1 hour, and further stirred at 100° C. for 5 hours. The mixture is allowed to cool to room temperature, and thereto is added a saturated aqueous sodium hydrogen carbonate solution, and the mixture is extracted with ethyl acetate. The organic layer is dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The obtained residue is purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to give the title compound (94.3 mg, yield: 82%).

reactant | 3-(7-methoxy-1H-indazol-3-yl)propanoic acid | 0.392 mmol, 86.4 mg | COC=1C=CC=C2C(=NNC12)CCC(=O)O | C11H12N2O3
reactant | triethylamine | 0.574 mmol, 80.0 μL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.510 mmol, 110 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | tert-butanol | 2.5 mL | C(C)(C)(C)O | C4H10O
product | tert-Butyl [2-(7-methoxy-1H-indazol-3-yl)ethyl]carbamate | 94.3 mg, yield: 82% | COC=1C=CC=C2C(=NNC12)CCNC(OC(C)(C)C)=O | C15H21N3O3
